US09034866B2
Synthesis of 9-iodo-3-((1-methyl-1H-indazol-3-yl)methyl)-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide
A pressure tube containing a solution of ethyl 9-iodo-3((1-methyl-1H-indazol-3-yl)methyl)-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate (198 mg, 0.37 mmol) in methanolic ammonia (7 mL of 7.0M ammonia in methanol) was warmed to 50° C. for 8 days. After evaporation of the reaction mixture in vacuo, the residue was suspended in methanol (0.8 mL) and the solid collected by vacuum filtration to furnish the title compound as an off-white solid (164 mg, 0.32 mmol, 86%): 1H NMR (250 MHz, CDCl3) δ1.48-1.57 (m, 2H), 2.71-2.87 (m, 2H), 3.52 (td, J=8.15, 4.42 Hz, 1H), 3.79 (td, J=7.54, 3.81 Hz, 1H), 3.99 (s, 3H), 5.44 (br. s., 3H), 6.24 (s, 2H), 6.78 (d, J=7.92 Hz, 1H), 7.03-7.11 (m, 1H), 7.31-7.41 (m, 3H), 7.53 (dt, J=8.22, 0.91 Hz, 1H), 8.71 (d, J=1.83 Hz, 1H); M+H=510.

reactant | ethyl 9-iodo-3((1-methyl-1H-indazol-3-yl)methyl)-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate | 0.37 mmol, 198 mg | IC=1C=CC2=C(C3=C(N(C(=N3)C(=O)OCC)CC3=NN(C4=CC=CC=C34)C)C3CC2C3)C1 | C25H23IN4O2
reactant | ammonia | 7.0M, 7 mL | N | H3N
product | 9-iodo-3-((1-methyl-1H-indazol-3-yl)methyl)-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide | 0.32 mmol, 164 mg, 86% | IC=1C=CC2=C(C3=C(N(C(=N3)C(=O)N)CC3=NN(C4=CC=CC=C34)C)C3CC2C3)C1 | C23H20IN5O
